US08440689B2
D. (R)-tert-Butyl 1-amino-3-ethoxypropan-2-ylcarbamate
A mixture of (R)-tert-butyl 1-azido-3-ethoxypropan-2-ylcarbamate (1.2 g, 4.91 mmol) in MeOH (10 mL) was added palladium on carbon (0.523 g, 4.91 mmol). The mixture was stirred under hydrogen atmosphere overnight at RT. The resulting crude material was reconstituted in MeOH (1.0 mL) and purified via reverse phase preparative HPLC. The fractions were collected and solvent was stripped to dryness via rotary evaporation to give the title compound as clear oil (722 mg, 67%). [M+H] calc'd for C10H22N2O3, 219. found, 219.

reactant | (R)-tert-butyl 1-azido-3-ethoxypropan-2-ylcarbamate | 4.91 mmol, 1.2 g | N(=[N+]=[N-])C[C@H](COCC)NC(OC(C)(C)C)=O | C10H20N4O3
solvent | MeOH | 10 mL | CO | CH4O
catalyst | palladium on carbon | 4.91 mmol, 0.523 g | [Pd] | Pd
solvent | MeOH | 1.0 mL | CO | CH4O
product | (R)-tert-Butyl 1-amino-3-ethoxypropan-2-ylcarbamate | 722 mg, 67% | NC[C@H](COCC)NC(OC(C)(C)C)=O | C10H22N2O3
